US04080451
Potassium 3-(Ethoxycarbonylmethoxyacetyl)dithiocarbazate
Ethoxycarbonylmethoxyacetohydrazide (15.0 g.) was suspended in chilled ethanol (200 ml.) at 0° C. and carbon disulfide (26.7 ml.) was next added dropwise to the suspension. A solution of potassium hydroxide (5.6 g.) in ethanol (60 ml.) was then added to the mixture over a period of 30 minutes, and the resulting reaction mixture was stirred at 0° C. for a further 30 minutes. Finally, the coolant was removed and the reaction mixture was stirred overnight for approximately 16 hours. The product, viz., potassium 3-(ethoxycarbonylmethoxyacetyl)dithiocarbazate, was subsequently removed from the mixture by means of filtration, washed successively with ethanol and diethyl ether and finally dried in vacuo to constant weight (yield, 43.5 g.). This product was immediately used in the next reaction step without any further purification being necessary.

reactant | Ethoxycarbonylmethoxyacetohydrazide | 15.0 g | C(C)OC(=O)COCC(=O)NN | C6H12N2O4
reactant | carbon disulfide | 26.7 ml | C(=S)=S | CS2
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Potassium 3-(Ethoxycarbonylmethoxyacetyl)dithiocarbazate | C(C)OC(=O)COCC(=O)NNC(=S)[S-].[K+] | InChI=1S/C7H12N2O4S2.K/c1-2-13-6(11)4-12-3-5(10)8-9-7(14)15;/h2-4H2,1H3,(H,8,10)(H2,9,14,15);/q;+1/p-1
